US07612211B2
B. 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2-(4-trifluoromethyl-phenoxymethyl)-benzoimidazole-1-carboxylic acid tert-butyl ester
A mixture of 5-bromo-2-(4-trifluoromethyl-phenoxymethyl)-benzoimidazole-1-carboxylic acid tert-butyl ester (0.300 g, 0.637 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (0.052 g, 0.0637 mmol), potassium acetate (0.187 g, 1.91 mmol), and bis(pinacolato)diboron (0.323 g, 1.27 mmol) in 4 mL of DMF was heated to 90° C. and stirred for 12 hours. The reaction mixture was then concentrated in vacuo, and the residue was purified by chromatography (silica, hexanes: EtOAc, 4:1) to afford the title compound as a brown solid (0.241 g, 73%).

reactant | 5-bromo-2-(4-trifluoromethyl-phenoxymethyl)-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.637 mmol, 0.300 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)Br)COC2=CC=C(C=C2)C(F)(F)F | C20H18BrF3N2O3
reactant | potassium acetate | 1.91 mmol, 0.187 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.27 mmol, 0.323 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.0637 mmol, 0.052 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2-(4-trifluoromethyl-phenoxymethyl)-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.241 g, 73% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C)COC2=CC=C(C=C2)C(F)(F)F | C26H30BF3N2O5
